US06060488
6-Methoxy-2-(4-Methoxyphenyl)-3-(4-[2-Piperidin-1-ylcyclohexoxy]benzoyl)benzo[b]thiophene
6-Methoxy-2-(4-methoxyphenyl)-3-(4-hydroxybenzoyl)benzo[b]thiophene (1.17 g, 3.00 mmol), trans-2-piperidinylcyclohexanol (1.10 g, 6.00 mmol), triphenylphosphine (1.57 g, 6.00 mmol), and DEAD (6.0 mmol) were converted to product by the procedure of Example 11 to give 1.08 g of the title compound. Yield: 65%. MS(FD) 555(M+). IR (CHCl3) ν max 3014, 2938, 2860, 1644, 1595, 1476, 1254, 1165.

reactant | 6-Methoxy-2-(4-methoxyphenyl)-3-(4-hydroxybenzoyl)benzo[b]thiophene | 3.00 mmol, 1.17 g | COC=1C=CC2=C(SC(=C2C(C2=CC=C(C=C2)O)=O)C2=CC=C(C=C2)OC)C1 | C23H18O4S
reactant | trans-2-piperidinylcyclohexanol | 6.00 mmol, 1.10 g | N1(CCCCC1)[C@H]1[C@@H](CCCC1)O | C11H21NO
reactant | triphenylphosphine | 6.00 mmol, 1.57 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 6.0 mmol | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
product | 6-Methoxy-2-(4-Methoxyphenyl)-3-(4-[2-Piperidin-1-ylcyclohexoxy]benzoyl)benzo[b]thiophene | 1.08 g, Yield: 65% | COC=1C=CC2=C(SC(=C2C(C2=CC=C(C=C2)OC2C(CCCC2)N2CCCCC2)=O)C2=CC=C(C=C2)OC)C1 | C34H37NO4S
